US09315495B2
To a solution of 2-isopropoxythiophene (250 mg, 1.76 mmol) in 9 mL of 9:1 tetrahydrofuran/hexamethylphosphoramide under argon at −78° C. was added n-butyllithium (0.77 mL, 2.5 M in hexanes) dropwise. After stirring at −78° C. for 20 minutes, dimethylformamide (0.68 mL, 8.80 mmol) was added in a single portion and the reaction mixture allowed to warm to room temperature while stirring, before being poured into 30 mL of 1 N hydrochloric acid. Organics were extracted with 1:1 ether/hexanes (2×35 mL), washed with 1 N hydrochloric acid (2×20 mL), water (20 mL) and brine, dried over magnesium sulfate, filtered and concentrated. The crude residue was subjected to chromatography on silica gel (7% ethyl acetate in hexanes) to give 5-isopropoxy-2-thiophenecarbaldehyde (108 mg, 36%). Used without further characterization.

reactant | 2-isopropoxythiophene | 1.76 mmol, 250 mg | C(C)(C)OC=1SC=CC1 | C7H10OS
reactant | n-butyllithium | 2.5 M, 0.77 mL | C(CCC)[Li]
reactant | dimethylformamide | 8.80 mmol, 0.68 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1 N, 30 mL | Cl | ClH
solvent | tetrahydrofuran hexamethylphosphoramide | 9 mL | O1CCCC1.CN(P(=O)(N(C)C)N(C)C)C
product | 5-isopropoxy-2-thiophenecarbaldehyde | 108 mg, 36% | C(C)(C)OC1=CC=C(S1)C=O | C8H10O2S
